US05183492
0.35 g of sodium hydride (50% dispersion in white oil) is added to 40 ml of dimethylformamide while stirring. 2.9 g of ethyl 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methyl-propionate [sic] are added portionwise as the solid. After completion of the addition the mixture is stirred at room temperature for a further hour. 1.2 g of allyl bromide are now added in one portion. The reaction mixture is stirred at room temperature for 18 hours and thereafter introduced into 100 ml of water at 0° C. The mixture is extracted twice with 150 ml of ethyl acetate each time. The organic phases are washed once with 100 ml of saturated sodium chloride solution, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue is purified by chromatography over silica gel with ethyl acetate/n-hexane (1:4). There is obtained ethyl 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-(2-propenyl)-4 -trifluoromethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methyl-propionate as an oil;

reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | ethyl 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methyl-propionate | 2.9 g | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O | C18H16ClF3N2O6
reactant | allyl bromide | 1.2 g | C(C=C)Br | C3H5Br
solvent | water | 100 ml | O | H2O
product | ethyl 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-(2-propenyl)-4 -trifluoromethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methyl-propionate | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)CC=C)=O | C21H20ClF3N2O6
